US06579884B1
Synthesis of 2-(2-(((2,3-dimethylimidazo[1,2-a]pyridin-8-yl)amino)methyl)-3-methylphenoxy)-1-ethanol
To a solution of 8-(2-hydroxy-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine (0.14 g, 0.5 mmol) in N,N-dimethylformamide (3 ml) was added lithium hydride (0.004 g, 0.51 mmol) and the mixture was stirred for 10 min at 100° C. Ethylene carbonate (0.055 g, 0.63 mmol) was added and the mixture was stirred for 10 min at 130° C. Tetramethylammonium iodide (0.054 g, 0.63 mmol) was added and the mixture was stirred for 12 h. at 140-145° C. The solvent was evaporated under reduced pressure and the residue was solved in methylene chloride, washed twice with saturated sodium bicarbonate. The organic layer was separated, dried and evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using methylene chloride:methanol (100:6) as eluent to give 0.067 g (41%) of the title compound.

reactant | 8-(2-hydroxy-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine | 0.5 mmol, 0.14 g | OC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C17H19N3O
reactant | lithium hydride | 0.51 mmol, 0.004 g | [H-].[Li+]
reactant | Ethylene carbonate | 0.63 mmol, 0.055 g | C1(OCCO1)=O | C3H4O3
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
catalyst | Tetramethylammonium iodide | 0.63 mmol, 0.054 g | [I-].C[N+](C)(C)C
product | 2-(2-(((2,3-dimethylimidazo[1,2-a]pyridin-8-yl)amino)methyl)-3-methylphenoxy)-1-ethanol | 0.067 g, 41% | CC=1N=C2N(C=CC=C2NCC2=C(OCCO)C=CC=C2C)C1C | C19H23N3O2
